US07427612B2
(5-Methanesulfonyl-2-thiomorpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 202 from (2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (example BO) and thiomorpholine to yield the title compound as a pale yellow solid. MS (m/e): 514.5 (M+H, 100%).

reactant | (2-Chloro-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | ClC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18ClF3N2O3S
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | (5-Methanesulfonyl-2-thiomorpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)N1CCSCC1 | C23H26F3N3O3S2
